* source _FIG1_13_MSD
R_R2         VOUT N00779  5k TC=0,0 
R_R3         VIN VOUT  5k TC=0,0 
R_R1         0 N00779  50 TC=0,0 
T_T1         VIN 0 N00779 0 Z0=50 TD=5ns  
V_V1         VIN 0  
+SIN 0 1 50Meg 0 0 0
