* source _FIG1_12_MSD
T_T1         VIN 0 N00162 0 Z0=50 TD=5ns  
R_R1         0 N00162  50 TC=0,0 
R_R2         VOUT N00162  5k TC=0,0 
R_R3         VIN VOUT  5k TC=0,0 
V_V1         VIN 0 DC 0Vdc AC 1Vac 
