* source _FIG4_51_MSD
V_V1         N28813 0 DC 0Vdc AC 1Vac 
E_Eadd1         N28503 0 N28813 N28806 1
E_E2         N28677 0 N28497 0 1
E_E1         VOUT 0 N28671 0 .01
E_Esum1         N28806 0 N28743 N28774 -1
E_EA1         N28743 0 N28677 0 1.859
E_EA2         N28774 0 N28671 0 .869
R_R1         0 N28497  50 TC=0,0 
T_T1         N28503 0 N28497 0 Z0=50 TD=10n  
T_T2         N28677 0 N28671 0 Z0=50 TD=10n  
R_R2         0 N28671  50 TC=0,0 
